US04432981
C-1. 8-Ethyl-2-(4-pyridinyl)pyrido[2,3-d]pyrimidin-5(8H)-one--A mixture containing 12.7 g of 2-(4-pyridinyl)-pyrido[2,3-d]pyrimidin-5(8H)-one, 2.74 g of 50% sodium hydride in mineral oil and 300 ml of dimethylformamide was stirred at room temperature until evolution of hydrogen ceased. The mixture was heated gently with stirring on a steam bath for 30 minutes, one drop diisopropylamine was added followed by 100 mg of sodium hydride and gentle heating with stirring was continued for another 45 minutes. The mixture was then cooled to room temperature and to it was added dropwise with stirring at room temperature 8.85 g of ethyl iodide. The reaction mixture was stirred at room temperature for three hours and then heated gently with stirring on a steam bath for 30 minutes. The solvent was then distilled off in vacuo and the residue was shaken well with a mixture of water and chloroform. The water layer was extracted several times with chloroform and the chloroform extracts were combined with the chloroform layer. The combined chloroform solution was dried over anhydrous sodium sulfate, the mixture filtered, and the filtrate treated with decolorizing charcoal and filtered. The chloroform was distilled off in vacuo and the remaining 12 g of solid residue was dissolved in 300 ml of hot isopropyl alcohol, the hot alcohol solution treated with decolorizing charcoal and filtered. The filtrate was concentrated to a volume of about 150 ml and cooled. The precipitated solid was collected, washed with a small quantity of cold isopropyl alcohol, and dried at 65° C. in vacuo to produce 6.8 g of 8-ethyl-2-(4-pyridinyl)pyrido[2,3-d]pyrimidin-5(8H)-one, m.p. 200°-202° C. Additional product was obtained from the mother liquor.

reactant | 2-(4-pyridinyl)-pyrido[2,3-d]pyrimidin-5(8H)-one | 12.7 g | N1=CC=C(C=C1)C=1N=CC2=C(N1)NC=CC2=O | C12H8N4O
reactant | sodium hydride | 2.74 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | sodium hydride | 100 mg | [H-].[Na+]
reactant | ethyl iodide | 8.85 g | C(C)I | C2H5I
catalyst | diisopropylamine | one drop | C(C)(C)NC(C)C | C6H15N
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 8-ethyl-2-(4-pyridinyl)pyrido[2,3-d]pyrimidin-5(8H)-one | 6.8 g | C(C)N1C=CC(C2=C1N=C(N=C2)C2=CC=NC=C2)=O | C14H12N4O
